US08461175B2
A 10 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 263 mg of 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-7-iodo-2H-pyrazolo[4,3-c]isoquinoline in 1.5 ml of DMF and then 1.5 ml of triethylamine. After argon has been bubbled through the mixture for 10 min, 30 mg of bis(triphenylphosphene)palladium(II) dichloride, 8.7 mg of copper(I) iodide and 118 μl of ethynyltrimethylsilane are added. The mixture is stirred at RT for 2 h, poured into water, extracted with AcOEt, washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (40-63 μm), eluting with a mixture of DCM and methanol (99.5/0.5 by vol.), to give 140 mg of 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-7-trimethylsilanylethynyl-2H-pyrazolo[4,3-c]isoquinoline (cream solid). MS (E/I): m/z=586 (M+) 1H NMR: −0.05 (s, 9 H) 0.23 (s, 9 H) 0.89 (m, 2 H) 3.72 (m, 2 H) 5.88 (s, 2 H) 7.4 (t, J=8.1 Hz, 2H) 7.6 (broad s, 1H) 7.75 (m, 1H) 8.01 (dd, J=8.3, 1.5 Hz, 1H) 8.52 (d, J=8.3 Hz, 1H).

reactant | 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-7-iodo-2H-pyrazolo[4,3-c]isoquinoline | 263 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)I)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C22H21BrF2IN3OSi
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-7-trimethylsilanylethynyl-2H-pyrazolo[4,3-c]isoquinoline | 140 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)C#C[Si](C)(C)C)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C27H30BrF2N3OSi2
